US05811432
A. 6-Chloro-4-azaoxindole
In a dry flask fitted with a nitrogen inlet and mechanical stirrer was placed sodium hydride as a 60° suspension in oil (4.0 g, 0.10 mol). Most of the oil was removed by washing twice with hexanes. The remaining solid sodium hydride was then suspended in dry 1,2-dimethoxyethane (DME) (125 mL). To the resulting slurry was added dropwise, with stirring, a solution of diethyl malonate (15.7 mL, 0.10 mol) in DME (50 mL). The mixture was stirred at room temperature for 1 hour after which a solution of 2,5-dichloro-3-nitropyridine (10 g, 51.8 mmol) in DME (75 mL) was added. Stirring at room temperature was continued overnight and the reaction mixture was diluted with water. Following acidification to pH 2 with 1N HCl solution, the mixture was extracted with ether. The ether phase was washed with brine, dried over MgSO4 and concentrated in vacuo to leave a red oil. This was subjected to flash chromatography on silica gel using 9:1 hexane/ethyl acetate as eluant. All fractions containing the desired product were combined and concentrated to yield 2-bis(ethoxycarbonyl)methyl-5-chloro-3-nitropyridine as an oil (13.6 g, 82%).

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 0.10 mol, 15.7 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,5-dichloro-3-nitropyridine | 51.8 mmol, 10 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | HCl | 1N | Cl | ClH
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | DME | 75 mL | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 6-Chloro-4-azaoxindole | ClC1=CN=C2CC(NC2=C1)=O | C7H5ClN2O
